US08076334B2
A solution of 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile (600 mg, 1.29 mmol) in tetrahydrofuran (9.0 mL, 0.14 M) cooled to 0° C. was treated with thionyl chloride (0.28 mL, 3.84 mmol). The reaction mixture was allowed to slowly warm to 25° C. The reaction mixture was stirred at 25° C. overnight. At this time, the reaction mixture was concentrated in vacuo. The residue was taken up in benzene and was re-concentrated twice to afford 2-[3,5-dichloro-4-(1-chloromethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile as a yellow solid. The material was used without further purification.

reactant | 2-[3,5-dichloro-4-(1-hydroxymethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | 1.29 mmol, 600 mg | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CO)Cl)N1N=C(C(NC1=O)=O)C#N | C18H14Cl2N6O5
reactant | thionyl chloride | 3.84 mmol, 0.28 mL | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 0.14 M, 9.0 mL | O1CCCC1 | C4H8O
product | 2-[3,5-dichloro-4-(1-chloromethyl-5-isopropyl-6-oxo-1,6-dihydro-pyridazin-3-yloxy)-phenyl]-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carbonitrile | ClC=1C=C(C=C(C1OC1=NN(C(C(=C1)C(C)C)=O)CCl)Cl)N1N=C(C(NC1=O)=O)C#N | C18H13Cl3N6O4
